US04769480
5.0 g of 2-methoxy-3,4-methylenedioxybenzaldehyde was suspended in 30 ml of methanol, to which 4.31 g of 40% methylamine aqueous solution (2 equivalent) was added. 59 mg of 5% Pd/C catalyst (0.1 mol %) was added to the obtained reaction mixture and hydrogenation was carried out at ordinary temperature and atmospheric pressure. Absorption of hydrogen was completed in about 2 hours to quantitatively obtain N-methylbenzylamine derivative. The catalyst was filtered out and excessive methylamine, water formed and methanol solvent were distilled off to obtain an oily N-methyl-2-methoxy-3,4-methylenedioxybenzylamine. (Yield 100%).

reactant | 2-methoxy-3,4-methylenedioxybenzaldehyde | 5.0 g | COC1=C(C=O)C=CC2=C1OCO2 | C9H8O4
reactant | methylamine | 4.31 g, 2 equivalent | CN | CH5N
solvent | methanol | 30 ml | CO | CH4O
catalyst | Pd/C | 59 mg | [Pd] | Pd
product | N-methyl-2-methoxy-3,4-methylenedioxybenzylamine | Yield 100% | CNCC1=C(C2=C(C=C1)OCO2)OC | C10H13NO3
